US04587236
Under the conditions of Example 2c, 1.0 g of 11β,21-dihydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione is reacted with isobutyric anhydride, worked up, and purified, yielding 850 mg of 11β-hydroxy-21-isobutyryloxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione.

reactant | 11β,21-dihydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione | 1.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C25H34O6
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | 11β-hydroxy-21-isobutyryloxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione | 850 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(C(C)C)=O)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C29H40O7
